US08017602B2
Step vi) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-fluoro-5-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide
The subtitled compound (3.3 g) was prepared from 3-(3-fluoro-5-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid [Example 17, Step v)] and N-(2,2-dimethoxyethyl)cyclohexanamine using a similar method to that described in Example 12, Step iii). MS [M+H-MeOH]+=430 (MultiMode+) 1H NMR (400 MHz, CD3OD) δ 7.97 (s, 1H), 7.81 and 7.80 (2×s, 1H), 7.19 (m, 1H), 7.09 (dt, J=10.0, 1.9 Hz, 1H), 6.80 (m, 1H), 4.52 and 4.36 (2×t, J=5.0 Hz, 1H), 4.00 and 3.64 (2×tt, J=3.6 and 11.7 Hz, 1H), 3.902 and 3.898 (2×s, 3H), 3.76-3.64 (m, 4H), 3.34 (s, 3H), 3.33 and 3.25 (2×d, J=5.1 Hz, 2H), 3.32 (s, 3H), 2.85 and 2.84 (2×t, J=6.2 Hz, 2H), 2.65 and 2.63 (2×t, J=6.1 Hz, 2H), 1.79-1.69 (m, 2H), 1.68-1.49 (m, 3H), 1.49-1.19 (m, 4H), 1.16-1.01 (m, 1H); a ˜1:1 mixture of rotamers is observed.

reactant | 3-(3-fluoro-5-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid | FC=1C=C(CCOCCC(=O)O)C=C(C1)C=1C=NN(C1)C | C15H17FN2O3
reactant | N-(2,2-dimethoxyethyl)cyclohexanamine | COC(CNC1CCCCC1)OC | C10H21NO2
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-fluoro-5-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide | 3.3 g | C1(CCCCC1)N(C(CCOCCC1=CC(=CC(=C1)C=1C=NN(C1)C)F)=O)CC(OC)OC | C25H36FN3O4
